US04851410
(a) 3-(Pyrazol-1-yloxy)-propylphthalimide
26 g of 1-hydroxypyrazole are added to a suspension of 10 g of sodium hydride (80 percent strength in oil) in 500 ml of xylene. The mixture is stirred for 1 hour, after which 84 g of 3-bromopropylphthalimide are added and the mixture is refluxed for 2 hours. After cooling, the mixture is filtered, the filtrate is evaporated down, the crystalline residue is suspended in diethyl ether and the product is filtered off under suction. 85 g of the title compound of melting point 116°-118° C. are obtained.

reactant | 1-hydroxypyrazole | 26 g | ON1N=CC=C1 | C3H4N2O
reactant | sodium hydride | 10 g | [H-].[Na+]
reactant | 3-bromopropylphthalimide | 84 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(Pyrazol-1-yloxy)-propylphthalimide | 85 g | N1(N=CC=C1)OCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C14H13N3O3
